US08580824B2
To a solution of 2-isobutyl-6-methyl-isonicotinic acid hydrochloride (2.18 g, 9.53 mmol) and DIPEA (3.69 g, 28.6 mmol) in DCM (10 mL), TBTU (3.67 g, 11.44 mmol) is added. The mixture is stirred for 5 min before 3,5-diethyl-4,N-dihydroxy-benzamidine (1.85 g, 9.53 mmol) is added. The mixture is stirred at rt for 1 h. The mixture is diluted with DCM, washed with sat. aq. NaHCO3 solution, dried over MgSO4, filtered and concentrated. The crude 2-isobutyl-6-methyl-isonicotinic acid (3-ethyl-4,N-dihydroxy-5-methyl-benzamidine) ester (LC-MS: tR=0.79 min, [M+1]+=370.06) is dissolved in dioxane (50 mL) and heated to 100° C. for 4 h. The solvent is evaporated and the crude product is purified by CC on silica gel eluting with heptane:EA 9:1 to give 2-ethyl-4-[5-(2-isobutyl-6-methyl-pyridin-4-yl)-[1,2,4]oxadiazol-3-yl]-6-methyl-phenol (1.97 g) as a colourless oil; LC-MS: tR=0.93 min; [M+1]+=352.16; 1H NMR (CDCl3): δ 7.85 (s, 2 H), 7.75 (s, 1 H), 7.70 (s, 1 H), 5.05 (s br, 1H), 2.78 (d, J=7.5 Hz, 2H), 2.74 (q, J=7.5 Hz, 2H), 2.69 (s, 3H), 2.37 8 s, 3H), 2.19 (hept, J=7.5 Hz, 1H), 1.34 (t, J=7.5 Hz, 3H), 1.00 (d, J=6.5 Hz, 6H).

reactant | 2-isobutyl-6-methyl-isonicotinic acid hydrochloride | 9.53 mmol, 2.18 g | Cl.C(C(C)C)C=1C=C(C(=O)O)C=C(N1)C
reactant | DIPEA | 28.6 mmol, 3.69 g | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 11.44 mmol, 3.67 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 3,5-diethyl-4,N-dihydroxy-benzamidine | 9.53 mmol, 1.85 g | C(C)C=1C=C(C(=N)NO)C=C(C1O)CC | C11H16N2O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-ethyl-4-[5-(2-isobutyl-6-methyl-pyridin-4-yl)-[1,2,4]oxadiazol-3-yl]-6-methyl-phenol | 1.97 g | C(C)C1=C(C(=CC(=C1)C1=NOC(=N1)C1=CC(=NC(=C1)C)CC(C)C)C)O | C21H25N3O2
